### PR TITLE
Add Erdős Problem 581 (bipartite subgraphs of triangle-free graphs), link the formal proof

### LINKED ISSUE #6380: Erdős Problem 581
### What is the Erdős problem?

https://www.erdosproblems.com/581

Let $f(m)$ be the maximal $k$ such that a triangle-free graph on $m$ edges must contain a bipartite graph with $k$ edges. Determine $f(m)$.

Status: resolved by Alon [Al96]: $f(m) = m/2 + \Theta(m^{4/5})$. A formal proof exists in plby/lean-proofs (`Erdos581.erdos_581`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6380.

### What changed
Adds `FormalConjectures/ErdosProblems/581.lean` with `f m` (the largest `k` such that every triangle-free graph with `m` edges has a bipartite subgraph with `≥ k` edges):
- `erdos_581` (`research solved`): Alon's `m/2 + c₁ m^{4/5} ≤ f(m) ≤ m/2 + c₂ m^{4/5}` [Al96]. Linked to plby/lean-proofs `Erdos581.erdos_581` (Codex and GPT-5.6 Sol; 13 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos581.erdos_581` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`sSup` vs plby's `Nat.findGreatest`):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge581

lemma f_eq (m : ℕ) : Erdos581.f m = Erdos581Plby.f m := by
  unfold Erdos581.f
  have hset : {k | ∀ (V : Type) [Fintype V] (G : SimpleGraph V), G.CliqueFree 3 →
      G.edgeSet.ncard = m → ∃ H ≤ G, H.IsBipartite ∧ k ≤ H.edgeSet.ncard} =
      {k | Erdos581Plby.Guarantees m k} := by
    ext k
    simp only [Set.mem_ofPred_eq, Erdos581Plby.Guarantees]
  rw [hset]
  apply le_antisymm
  · refine csSup_le ⟨_, Erdos581Plby.f_spec m⟩ fun k hk => Erdos581Plby.le_f_of_guarantees hk
  · exact le_csSup ⟨m, fun k hk => (Erdos581Plby.le_f_of_guarantees hk).trans (Erdos581Plby.f_le m)⟩
      (Erdos581Plby.f_spec m)

theorem erdos_581_bridge : type_of% Erdos581.erdos_581 := by
  simp only [f_eq]
  exact Erdos581Plby.erdos_581

#print axioms Erdos581Plby.erdos_581
#print axioms erdos_581_bridge

end Bridge581
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«581»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/581.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/581.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
